US06509328B1
{2-[3-(3-Chloro-thiophen-2-yl)-3-oxo-propionylamino]-4-pyridin-2-yl-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from (2-amino-4-pyridin-2-yl-phenyl)-carbamic acid tert.-butyl ester (Example G17) and 6-(3-chloro-thiophen-2-yl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J2) according to the general procedure K. Obtained as an amorphous brown solid (145 mg).

reactant | (2-amino-4-pyridin-2-yl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=NC=CC=C1)N)=O | C16H19N3O2
reactant | 6-(3-chloro-thiophen-2-yl)-2,2-dimethyl-[1,3]dioxin-4-one | ClC1=C(SC=C1)C1=CC(OC(O1)(C)C)=O | C10H9ClO3S
product | {2-[3-(3-Chloro-thiophen-2-yl)-3-oxo-propionylamino]-4-pyridin-2-yl-phenyl}-carbamic Acid tert.-Butyl Ester | 145 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=NC=CC=C1)NC(CC(=O)C=1SC=CC1Cl)=O)=O | C23H22ClN3O4S
